US08859765B2
A solution of (1S,4R)—N-benzyl-2-hydroxyimino-7,7-dimethylbicyclo[2.2.1]hept-1-ylmethanesulfonamide (IXa) (45.0 g, 134 mmol) in ethanol (360 mL) was added dropwise to a solution of sodium acetate (94.5 g, 1150 mmol) and TiCl3 (460 mmol) in 10.5% wt. aq. HCl (320 mL) at −20 to −10° C. The addition was conducted below 0° C., and the reaction mixture was then stirred at 0° C. for an hour prior to addition of neat t-BuNH2.BH3 (29.1 g, 335 mmol) in portions. The mixture was stirred at 0-10° C. for 30 minutes and then at ambient temperature. After the reaction was completed, the solution was diluted with ethyl acetate (675 mL) and was extracted with water (450 mL). Following separation of the layers, the organic layer was washed with sat. aq. NH4Cl (675 mL), 1 M aq. Na2CO3 (900 mL) and finally with 10% aq. NaCl (450 mL). The organic solution was concentrated to give the crude amine product (1S,2R,4R)—N-benzyl-2-amino-7,7-dimethylbicyclo[2.2.1]hept-1-ylmethanesulfonamide (VIa) as light yellow powder. The crude product was dissolved in ethanol (180 mL) at 70-75° C. and was hot-filtered. The filter cake was washed with hot ethanol (45 mL), and the filtrate was slowly cooled allowing recrystallization to occur at about 50° C. After stirring for an hour at 0° C., the white suspension was filtered and washed with cold ethanol (45 mL) to give pure (1S,2R,4R)—N-benzyl-2-amino-7,7-dimethylbicyclo[2.2.1]hept-1-ylmethanesulfonamide (VIa) as a white powder (23.5 g; 54%; >99.9% pure as assessed by HPLC).

reactant | (1S,4R)—N-benzyl-2-hydroxyimino-7,7-dimethylbicyclo[2.2.1]hept-1-ylmethanesulfonamide | 134 mmol, 45.0 g | C(C1=CC=CC=C1)NS(=O)(=O)C[C@@]12C(C[C@@H](CC1)C2(C)C)=NO | C17H24N2O3S
reactant | sodium acetate | 1150 mmol, 94.5 g | C(C)(=O)[O-].[Na+]
reactant | HCl | 320 mL | Cl | ClH
reactant | t-BuNH2 | C(C)(C)(C)N | C4H11N
solvent | ethanol | 360 mL | C(C)O | C2H6O
solvent | ethyl acetate | 675 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | (1S,2R,4R)—N-benzyl-2-amino-7,7-dimethylbicyclo[2.2.1]hept-1-ylmethanesulfonamide | C(C1=CC=CC=C1)NS(=O)(=O)C[C@@]12[C@@H](C[C@@H](CC1)C2(C)C)N | C17H26N2O2S
